US05079247
(Bs) 1,1'-(1,3-Propanediyl)bis-benz[cd]indol-2 (1H)-one:
Thirty four grams of benz[cd]indol-2(1H)-one is added with stirring to 500 ml of dry dimethylformamide. Ten grams of 50% sodium hydride (in oil) is added in portions, the reaction is stirred at room temperature for 1 hour, and then on a steam bath for one hour. A deep red/brown solution results. One hundred twenty grams of 1,3-dibromopropane is added in one portion, the red color disappears and a white suspension appears. The mixture is stirred and heated on a steam bath for 16 hours, concentrated to dryness and the residue dissolved in 250 ml of dichloromethane. The solution is passed through hydrous magnesium silicate and rinsed with 100 ml of dichloromethane; on standing at room temperature crystals formed. The solution is cooled to 0° C., collected and washed with 100 ml of hexane. After numerous fractional crystallizations, 12.6 g of (Bs) 1,1'-(1,3-propanediyl)bisbenz[cd]indol-2(1H)-one, mp. 161°-162° C. and (Bt) 1.4 g of 1-(3 -bromopropyl)benz[cd]indol-2(1H)-one, mp. 74°-76° C., is obtained.

reactant | benz[cd]indol-2(1H)-one | Thirty four grams | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | sodium hydride | Ten grams | [H-].[Na+]
reactant | 1,3-dibromopropane | One hundred twenty grams | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1,1'-(1,3-Propanediyl)bis-benz[cd]indol-2 (1H)-one | C(CCN1C(C2=C3C(C=CC=C13)=CC=C2)=O)N2C(C1=C3C(C=CC=C23)=CC=C1)=O | C25H18N2O2
